US07435837B2
(±)-[(N-methyl-1-[7-(5-chloro-2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.058 g, 79%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(5-chloro-2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.095 g, 0.213 mmol) and methylamine (0.045 g, 2.1 mmol). mp 201-203° C.

reactant | (±)-[7-(5-chloro-2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.213 mmol, 0.095 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)OC | C23H21ClO5S
reactant | methylamine | 2.1 mmol, 0.045 g | CN | CH5N
product | N-methyl-1-[7-(5-chloro-2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)OC | C17H18ClNO2
